US09340544B2
N-(5-Chloro-pyridin-2-yl)-formamide
Was prepared according to Example 2 from 2-amino-5-chloropyridine and formic acid.

reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | formic acid | C(=O)O | CH2O2
product | N-(5-Chloro-pyridin-2-yl)-formamide | ClC=1C=CC(=NC1)NC=O | C6H5ClN2O
